US09359338B2
Step 3: Synthesis of tert-butyl 4-(1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl)piperazine-1-carboxylate
Stir the mixture of 1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl 4-methylbenzenesulfonate (350 mg, 0.90 mmol), 1-piperazinecarboxylic acid tert-butyl ester (335 mg, 1.8 mmol) and diisopropylethylamine (232 mg, 1.8 mmol) in THF (10 mL) for 12 hrs at 80° C. Concentrate the reaction mixture to obtain the crude product, purify by flash chromatography (silica gel, EtOAc:PE=1:10) to afford the title compound (280 mg, 77.1%). MS: (M+1): 404.2.

reactant | 1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl 4-methylbenzenesulfonate | 0.90 mmol, 350 mg | CC1=CC=C(C=C1)S(=O)(=O)OC(C)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C16H14F3NO5S
reactant | 1-piperazinecarboxylic acid tert-butyl ester | 1.8 mmol, 335 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | diisopropylethylamine | 1.8 mmol, 232 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(1-(3-nitro-5-(trifluoromethyl)phenyl)ethyl)piperazine-1-carboxylate | 280 mg, 77.1% | [N+](=O)([O-])C=1C=C(C=C(C1)C(F)(F)F)C(C)N1CCN(CC1)C(=O)OC(C)(C)C | C18H24F3N3O4
